US03956262
5-(3,3-Dimethyltriazeno)-2-phenylimidazole-4-carboxylic acid.
A solution of 4-carbobenzoxy-5-(3,3-dimethyltriazeno)-2-phenyl imidazole (1.0 gm) in methanol (50 ml) was saturated with carbon dioxide, and 10% palladium on charcoal (100 mgs) added. The mixture was hydrogenated at room temperature and pressure. A volume of 60 ml of hydrogen was absorbed in 1 hour 20 minutes.

reactant | 4-carbobenzoxy-5-(3,3-dimethyltriazeno)-2-phenyl imidazole | 1.0 gm | C(=O)(OCC1=CC=CC=C1)C=1N=C(NC1N=NN(C)C)C1=CC=CC=C1 | C19H19N5O2
reactant | carbon dioxide | C(=O)=O | CO2
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium on charcoal | 100 mgs | [Pd] | Pd
product | 5-(3,3-Dimethyltriazeno)-2-phenylimidazole-4-carboxylic acid | CN(N=NC1=C(N=C(N1)C1=CC=CC=C1)C(=O)O)C | C12H13N5O2
